US09212182B2
A vial was charged with 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide (0.219 g, 0.419 mmol), (4-chloro-3-methylphenyl)boronic acid (0.147 g, 0.865 mmol), Pd(Ph3P)4 (0.062 g, 0.054 mmol) and potassium carbonate (0.224 g, 1.621 mmol). The vial was flushed with Ar (g), then dioxane (2.027 ml) and water (0.676 ml) were added. The vial was sparged with N2 for 1 min and heated at 90° C. for 2 h. The mixture was partitioned between 1 N HCl (10 mL) and EtOAc (20 mL), the layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated for purification by MPLC (Biotage Isolera). The crude residue was taken up in minimal DCM and absorbed directly onto a dry Biotage SNAP pre-packed silica gel column (50 g) and eluted using a gradient of 100% Heptane 100% of 3:1 EtOAc:EtOH blend to afford 1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide as a light-yellow foam. The racemic 1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide was subjected to chiral separation by SFC using a Chiralpak AD column with 40% isopropanol in CO2 to provide (P)-1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide as peak 1 and (M)-1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide as peak 2. Data for peak 1: 1H NMR (500 MHz, DMSO-d6) δ 12.46-12.80 (br. s., 1H), 8.61 (br. s., 1H), 8.43 (br. s., 1H), 8.27-8.37 (m, 1H), 8.23 (d, J=9.72 Hz, 1H), 7.94 (d, J=8.82 Hz, 1H), 7.65 (s, 1H), 7.51-7.61 (m, 2H), 7.43 (dd, J=1.63, 8.04 Hz, 1H), 7.31 (s, 1H), 7.02 (br. s., 1H), 6.73-6.88 (m, 2H), 3.72 (s, 3H), 2.43 (s, 3H). m/z (ESI) 567.0 (M+H)+. Data for peak 2: 1H NMR (500 MHz, DMSO-d6) δ 8.61 (br. s., 1H), 8.43 (br. s., 1H), 8.30 (br. s., 1H), 8.23 (d, J=9.72 Hz, 1H), 7.94 (d, J=8.65 Hz, 1H), 7.65 (s, 1H), 7.57 (dd, J=3.29, 4.73 Hz, 2H), 7.39-7.48 (m, 1H), 7.31 (s, 1H), 7.02 (br. s., 1H), 6.75-6.87 (m, 2H), 3.66-3.75 (m, 3H), 2.43 (s, 3H) (sulfonamide NH missing due to exchange with water). m/z (ESI) 567.0 (M+H)+.

reactant | 1-(4-bromo-5-chloro-2-methoxyphenyl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide | 0.419 mmol, 0.219 g | BrC1=CC(=C(C=C1Cl)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NC=NC=C1)=O)OC | C20H14BrClN4O4S
reactant | (4-chloro-3-methylphenyl)boronic acid | 0.865 mmol, 0.147 g | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
reactant | potassium carbonate | 1.621 mmol, 0.224 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.054 mmol, 0.062 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,4′-dichloro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-yl)-2-oxo-N-(pyrimidin-4-yl)-1,2-dihydroquinoline-6-sulfonamide | ClC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NC=NC=C1)=O)OC)C1=CC(=C(C=C1)Cl)C | C27H20Cl2N4O4S
